US04666916
(a) (±)-[4R*,4aS*,10bR*]-7-Bromo-4-(hydroxymethyl)-1,3,4,4a,5,10b-hexahydro-9-methoxy-2H-[1]benzopyrano[4,3-c]pyridine
To a stirred solution of 8.66 g (±)-[4R*,4aS*,10bR*]-4-(hydroxymethyl)-1,3,4,4a,5,10b-hexahydro-9-methoxy-2H-[1]benzopyrano[4,3-c]pyridine in 90 ml acetic acid is added dropwise 1.96 ml bromine at 25°. After stirring 1.5 h, the solution is concentrated under reduced pressure and treated with 100 ml 2N NaOH. The aqueous phase is extracted with three 100 ml portions of CH2Cl2. The organic extracts are dried over Na2SO4, filtered, concentrated and flash chromatographed with CH2Cl2 /ammonia saturated methanol (90:10) to give the title compound as the major product; m.p. 281°-285° dec (HCl salt).

reactant | (±)-[4R*,4aS*,10bR*]-4-(hydroxymethyl)-1,3,4,4a,5,10b-hexahydro-9-methoxy-2H-[1]benzopyrano[4,3-c]pyridine | 8.66 g | OC[C@@H]1[C@@H]2[C@@H](CNC1)C1=C(OC2)C=CC(=C1)OC | C14H19NO3
reactant | bromine | 1.96 ml | BrBr | Br2
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
product | (±)-[4R*,4aS*,10bR*]-7-Bromo-4-(hydroxymethyl)-1,3,4,4a,5,10b-hexahydro-9-methoxy-2H-[1]benzopyrano[4,3-c]pyridine | BrC1=CC(=CC2=C1OC[C@H]1[C@H]2CNC[C@@H]1CO)OC | C14H18BrNO3
